US05254733
To a solution of 16.0 kg (114 mol) of (E,E)-4-ethyl-2,4-hexadienoic acid and 11.5 kg (114 mol) of triethylamine in 112 l of dichloromethane is added dropwise 14.0 kg (114 mol) of isopropyl chloroformate at -5°~-10° C. and the reaction is continued for 1 hour at same temperature. To this solution is introduced 7.4 kg (435 mol) of anhydrous ammonia gas and allowed to stand overnight at 20°-30° C. The solvent and excess ammonia gas is removed under reduced pressure. The residue is dissolved in 128 l of ethyl acetate and washed with 80 l of 5%-sodium chloride solution, 80 l of 5%-hydrochloric acid solution, 80 l of 5%-sodium chloride solution, 80l of 7%-sodium hydroxide solution and 80 l of 5%-sodium chloride solution respectively. The solvent is removed under reduced pressure to give 11.9 kg of (E,E)-4-ethyl-2,4 -hexadienamide as a yellow oil (Yield 74.7%).

reactant | (E,E)-4-ethyl-2,4-hexadienoic acid | 114 mol, 16.0 kg | C(C)/C(/C=C/C(=O)O)=C\C | C8H12O2
reactant | triethylamine | 114 mol, 11.5 kg | C(C)N(CC)CC | C6H15N
reactant | isopropyl chloroformate | 114 mol, 14.0 kg | ClC(=O)OC(C)C | C4H7ClO2
reactant | ammonia | 435 mol, 7.4 kg | N | H3N
solvent | dichloromethane | 112 l | ClCCl | CH2Cl2
product | (E,E)-4-ethyl-2,4 -hexadienamide | 11.9 kg, Yield 74.7% | C(C)/C(/C=C/C(=O)N)=C\C | C8H13NO
